Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Wellbutrin / sertraline / allopurinol / Uloric
 
Attending: ___
 
___ Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___ Bone Marrow Biopsy 

 
History of Present Illness:
Ms. ___ is a ___ female with history of 
myeloproliferative disorder/MDS overlap syndrome on ___ 
and hydrea who presents with abdominal pain.

Patient had follow-up appointment with her Oncologist. She 
reported worsening LUQ pain over the past several days. The pain 
is worse with deep breaths. She takes tramadol for the pain. She 
had CT torso which showed enlarging spleen with new infarct and 
progressive lymphadenopathy. She was referred to the ___ ED 
for admission to ___ for possible splenic radiation vs. change 
in therapy for disease control.

On arrival to the ED, initial vitals were 98.1 97 117/60 16 93% 
RA. Exam notable for palpable non-tender hard spleen. Labs were 
notable for WBC 81.4, H/H 9.4/30.3, Plt 30, INR 1.3, Na 143, K 
4.0, and BUN/Cr ___. No imaging obtained. No medications 
given. Prior to transfer vitals were 99.2 89 116/44 20 95% RA.

On arrival to the floor, patient reports ___ LUQ abdominal 
pain. She notes night sweats for several years. She denies 
fevers/chills, headache, vision changes, 
dizziness/lightheadedness, weakness/numbnesss, shortness of 
breath, cough, hemoptysis, chest pain, palpitations, 
nausea/vomiting, diarrhea, hematemesis, hematochezia/melena, 
dysuria, hematuria, and new rashes.
 
Past Medical History:
- ___: Her white blood cell count was 38,000,
differential showed immature myeloid forms. There was mild
basophilia and hypersegmented neutrophils. The remainder of her
CBC was unremarkable. The CBC was repeated and the results are
similar and an urgent referral to Hematology was placed.  
- ___: First hematology visit. Presentation
initially appeared consistent with chronic phase CML. However,
the BCR-ABL PCR and the JAK2 mutation analysis were negative.  
- ___: Bone marrow Bx which showed markedly
hypercellualrl marrow for age with trilenage hematopoiesis with
increased megas, 0% blasts, concerning for MPN. Cytogenetics
showed a ___ female karyotype and the FISH MDS panel was
negative for the common cytogenetic abnormalities observed 
within
myelodysplastic syndrome. There was no FISH evidence of BCR-ABL
gene rearrangement. Flow cytometry was performed, which showed a
1% subset of blasts, that expressed CD34, CD33, HLA-TR and 
lacked
CD19, CD14, and CD56. Additional testing for SETBP1 and CSF3R
were negative, these are mutations sometimes seen with atypical
CML and also chronic neutrophilic leukemia. As she was
symptomatic, she was put on hydrea 500 mg daily and allopurinol.
- ___: Underwent eye surgery. The following day, she
developed diarrhea and rash. 
- ___: Admitted to ___ and transferred to 
___
on the next day. The patient was in septic shock and admitted to
the MICU. Further workup showedpneumonia. During her
hospitalization, white blood cell count rose to greater than
100,000 and was felt to be consistent with a leukemoid reaction.
In the hospital, she had a massive upper GI bleed and had a
bleeding duodenal ulcer that was treated with laser coagulation.
She was discharged to a rehab facility on ___. She
started Jakafi at some point AFTER discharge.
- ___ through ___: She was readmitted to ___
with another massive GI bleed and the duodenal ulcer was found 
to
be bleeding again. She was re-treated with thermal coagulation
and endoclips and then had gastroepiploic embolization by
interventional radiology. She is transfused multiple units of
PRBCs. She aspirated and required intubation in the ICU and was
treated with broad-spectrum antibiotics. Jakafi was stopped
during this admission.
- ___ by Dr ___ was not feeling well, dehydrated 
and
weak. He changed hydrea to 500mg five times per week while
holding ___.
- ___: Referred to Dr. ___. There was concern for
transformation to acute leukemia and presence of tumor lysis was
recommended patient be admitted for urgent bone marrow biopsy 
and
possible induction chemotherapy. ___ had a long planned trip 
to
CA and declined admission.  
- ___: Repeat bone marrow bx by Dr. ___ dry tap no
aspirate obtained. peripheral blasts 2%. BM core markedly
hypercellular (90-100%) myeloid predominant c/w known
myeloproliferative neoplasm. Normal myeloid maturation and no
morphologic evidence of transformation. CD34 stain highlights
rare scattered cells representing <5% cellularity.
- ___ through ___: Did well on hydrea monotherapy
- ___: WBC increased from 29 to 61 with 7% blasts. Sent to
ED for CTA chest for elevated DDimer but negative. 
- ___: Repeat marrow overall unchanged, with 1% blasts and
negative cytogenetics/FISH workup. Myeloid sequencing = SRSF2
inframe insertion R94dup; CRLF2 exon 3 frameshift deletion
F107fs; KRAS A146V; RUNX1 L161P; and CUX1 exon 12 splice 
acceptor
loss. 
- ___: Seen by ___ team (Dr. ___, recommended HMA
- ___: Started C1D1 Vidaza

Past Medical History: 
Myeloproliferative disorder  
Hypertension 
Diabetes mellitus type 2 
COPD 
Hypothyroidism 
Hypercholesterolemia 
Depression 
___ 
breast cancer s/p lumpectomy and adjuvant radiation  
 
Social History:
___
Family History:
Mother died at ___ from cardiac disease. Father died at ___ from 
CAD, had h/o CVA at ___. Sister died of CAD in ___. No 
significant family history of malignancy.
 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAMINATION
==============================
VS: Temp 97.6, BP 109/68, HR 88, RR 20, O2 sat 92% RA.
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, bibasilar inspiratory
crackles.
ABD: Soft, spleen palpable in LUQ, non-tender, positive bowel
sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.

==============================
DISCHARGE PHYSICAL EXAMINATION
==============================
24 HR Data (last updated ___ @ 914)
Temp: 97.4 (Tm 97.9), 
BP: 115/66 (106-130/57-71), 
HR: 86 (82-93), 
RR: 20 (___), 
O2 sat: 91% (90-93), O2 delivery: Ra  

GENERAL: Comfortable appearing woman lying in bed and speaking 
to
me in no apparent distress. 
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: S1/S2 regular with no murmurs, rubs or s3/s4. 
LUNG: Faint bibasilar crackles without any use of accessory
muscles or evidence of respiratory distress. 
ABD: Large palpable spleen extending to midline and to RLQ. No
tenderness to deep palpation of the spleen. 
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
 
Pertinent Results:
============================
ADMISSION LABORATORY STUDIES
============================
___ 12:14PM BLOOD WBC-78.7* RBC-2.73* Hgb-9.3* Hct-29.6* 
MCV-108* MCH-34.1* MCHC-31.4* RDW-22.8* RDWSD-87.9* Plt Ct-28*
___ 12:14PM BLOOD Neuts-51 Bands-0 Lymphs-8* Monos-28* 
Eos-1 Baso-4* ___ Myelos-3* Blasts-5* NRBC-2* 
AbsNeut-40.14* AbsLymp-6.30* AbsMono-22.04* AbsEos-0.79* 
AbsBaso-3.15*
___ 12:14PM BLOOD Plt Smr-VERY LOW* Plt Ct-28*
___ 10:44PM BLOOD ___ 12:14PM BLOOD UreaN-14 Creat-1.0 Na-141 K-3.9 Cl-103 
HCO3-27 AnGap-11
___ 12:14PM BLOOD ALT-6 AST-26 LD(LDH)-699* AlkPhos-60 
TotBili-0.4
___ 12:14PM BLOOD TotProt-6.6 Albumin-3.9 Globuln-2.7 
UricAcd-10.0*
___ 12:14PM BLOOD Calcium-8.5 Phos-3.5 Mg-1.8

==========================================
DISCHARGE AND PERTINENT LABORATORY STUDIES
==========================================
___ 12:00AM BLOOD WBC-77.7* RBC-2.52* Hgb-8.2* Hct-28.1* 
MCV-112* MCH-32.5* MCHC-29.2* RDW-22.9* RDWSD-90.7* Plt Ct-26*
___ 12:00AM BLOOD Neuts-41 Bands-0 Lymphs-9* Monos-39* 
Eos-5 Baso-5* ___ Myelos-0 Blasts-1* AbsNeut-31.86* 
AbsLymp-6.99* AbsMono-30.30* AbsEos-3.89* AbsBaso-3.89*
___ 12:00AM BLOOD ___ PTT-28.4 ___
___ 04:05PM BLOOD ___ 12:00AM BLOOD ___ 04:05PM BLOOD Glucose-159* UreaN-12 Creat-1.1 Na-144 
K-3.4* Cl-107 HCO3-23 AnGap-14
___ 12:00AM BLOOD ALT-7 AST-26 LD(LDH)-739* AlkPhos-53 
TotBili-0.4
___ 04:05PM BLOOD UricAcd-1.3*
___ 04:05PM BLOOD Calcium-8.2* Phos-3.4 Mg-2.1

===========================
REPORTS AND IMAGING STUDIES
===========================
___ Bone Marrow Biopsy: Results Pending

============
MICROBIOLOGY
============
None

 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
Ms. ___ is a ___ year old woman with a history of a 
mydelodysplasic/myeloproliferative syndrome overlap recently on 
hydroxyurea and ___ who presents with abdominal pain 
after she was found to have worsening splenomegaly and new 
splenic infaraction. 

====================
ACUTE MEDICAL ISSUES
====================
# Myeloproliferative Disorder/MDS Overlap:
# Massive splenomegaly with splenic infarct
Currently on ___ and hydrea (alternating 500mg/1000mg). 
Now with enlarging spleen and new infarct. Given question of 
transformation to AML, she had a bone marrow biopsy ___, the 
results of which were pending at discharge. Will need to discuss 
treatment of splenomegaly with possible radiation as well as 
change in treatment regimen. Given that it seems she is not 
deriving much benefit from hydrea and ___, the decision 
was made to hold both of these treatment (including planned 
___ ___ until the results of her bone marrow biopsy 
are back. Her left upper quadrant pain was controlled with 
tramadol and completely resolved within 36 hours of her 
presentation. Given that the patient was eager to go home and we 
were not providing active treatment, the decision was made to 
discharge her with follow-up the week on ___. 

# Hyperuricemia 
Recent baseline uric acid ___. Patient with allergy to 
febuxostat and allopurinol which was reportedly a total body 
severe rash (worse with allopurinol). G6PD checked in ___ 
and was normal. She was started on fluids at 150cc/hr and was 
treated with rasburicase which lowered her uric acic dropped 
from 11.1 to 3.2. Other TLS/DIC were stable. 

# Acute Kidney Injury: Cr 1.3 on admission, baseline Cr 0.9-1.1. 
Concern for TLS vs. pre-renal. Back to baseline after IV fluids. 
Home lisinopril was held during the hospitalization and also 
held on discharge given that her blood pressures were as low as 
systolics of 100. 

The patient preliminarily has not transformed to AML, rather has 
splenic infarct.  

===================
TRANSITIONAL ISSUES
===================
[ ] Follow-up results of bone marrow biopsy 
[ ] Decide whether to restart hydrea and ___ based on 
[ ] Referral to radiation oncology 
[ ] Consider re-starting lisinopril given this was held during 
her hospitalization for low blood pressure and ___
[ ] Monitor potassium given hypokalemia during hospitalization

Discharge Labs:
WBC 77.7
ANC ___
Blasts 1%
Platelets 26
Uric Acid 1.3
LDH 888

- New Meds: None 
- Stopped/Held Meds: Hydrea. Lisinopril HELD during admission 
and on discharge due to ___ and ___ blood pressure. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 5 mg PO DAILY 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Simvastatin 5 mg PO 3X/WEEK (___) 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Vitamin D ___ UNIT PO DAILY 
8. Hydroxyurea 500 mg PO EVERY OTHER DAY 
9. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
10. Lisinopril 5 mg PO DAILY 
11. Hydroxyurea 1000 mg PO EVERY OTHER DAY 
12. MetFORMIN (Glucophage) 850 mg PO DAILY 
13. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
14. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 

 
Discharge Medications:
1.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
2.  Escitalopram Oxalate 5 mg PO DAILY  
3.  Levothyroxine Sodium 88 mcg PO DAILY  
4.  MetFORMIN (Glucophage) 850 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
8.  Simvastatin 5 mg PO 3X/WEEK (___)  
9.  Tiotropium Bromide 1 CAP IH DAILY  
10.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  
11.  Vitamin D ___ UNIT PO DAILY  
12. HELD- Lisinopril 5 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you discuss with your doctor 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
Myeloprliferative disorder/Myelodysplastic Syndrome 
splenic infarct 
diabetes on insulin

===================
SECONDARY DIAGNOSES
===================
Splenomegaly with splenic infarction
Hyperuricemia 

=================
PRIMARY DIAGNOSIS
=================
Myeloprliferative disorder/Myelodysplastic Syndrome 

===================
SECONDARY DIAGNOSES
===================
Splenomegaly with splenic infarction
Hyperuricemia 

=================
PRIMARY DIAGNOSIS
=================
Myeloprliferative disorder/Myelodysplastic Syndrome 

===================
SECONDARY DIAGNOSES
===================
Splenomegaly with splenic infarction
Hyperuricemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___ ___ ___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were having pain in your abdomen
- A CAT scan showed your spleen was larger and was losing some 
blood supply

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- We treated you for high uric acid levels
- We treated your pain 
- We did a bone marrow biopsy and are waiting for the results

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- Carefully review the attached medication list as we may have 
made changes to your medications. 

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___